US04816459
A mixture of 1.07 g (2.65 mmoles) of 9-[(4-acetyl-3-hydroxy-2-n-propylphenoxy)methyl ]-3-(2-cyanoethyl)-4H-pyrido[1,2-a]pyrimidin-4-one, 1.76 g 2.57 g (39.53 mmoles) of sodium azide and 45 ml of tetrahydrofuran was heated under reflux for 23 hours. After cooling, the resulting reaction solution was poured into ice water and then acidified with dilute hydrochloric acid. The precipitate so formed was separated by filtration and recrystallized from acetonitrile to obtain 0.70 g (59% yield) of 9-[(4-acetyl-3-hydroxy-2-n-propylphenoxy)methyl]-3-[2-(1H-tetrazol-5-yl)ethyl]-4H-pyrido[1,2-a]pyrimidin-4-one in the form of white crystals. These crystals had a melting point of 238°-239° C. (dec.).

reactant | 9-[(4-acetyl-3-hydroxy-2-n-propylphenoxy)methyl ]-3-(2-cyanoethyl)-4H-pyrido[1,2-a]pyrimidin-4-one | 2.65 mmoles, 1.07 g | C(C)(=O)C1=C(C(=C(OCC2=CC=CN3C2=NC=C(C3=O)CCC#N)C=C1)CCC)O | C23H23N3O4
reactant | sodium azide | 39.53 mmoles, 1.76 g | [N-]=[N+]=[N-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
product | 9-[(4-acetyl-3-hydroxy-2-n-propylphenoxy)methyl]-3-[2-(1H-tetrazol-5-yl)ethyl]-4H-pyrido[1,2-a]pyrimidin-4-one | 0.70 g, 59% yield | C(C)(=O)C1=C(C(=C(OCC2=CC=CN3C2=NC=C(C3=O)CCC3=NN=NN3)C=C1)CCC)O | C23H24N6O4
